US04332948
3.1 g of 1-naphthaldehyde and 2.4 g of 1-methyl-1-phenylhydrazine were added to 50 ml of ethanol. To the mixture, two or three drops of 1 N hydrochloric acid were added. The mixture was heated and refluxed for about one hour. The reaction mixture was cooled and the crystals then separated, which were then collected on a suction funnel. The thus obtained crude 1-naphthaldehyde 1-methyl-1-phenylhydrazone was recrystallized from ethanol. The yield was 3.1 g (59.6%) of light yellow needle-like crystals which melt at 92.5°-94.9° C.

reactant | 1-naphthaldehyde | 3.1 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | 1-methyl-1-phenylhydrazine | 2.4 g | CN(N)C1=CC=CC=C1 | C7H10N2
catalyst | hydrochloric acid | 1 N, three drops | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-naphthaldehyde 1-methyl-1-phenylhydrazone | CN(N=CC1=CC=CC2=CC=CC=C12)C1=CC=CC=C1 | C18H16N2
